US04294960
2-(2-Formamidothiazol-4-yl)-2-ethoxycarbonylmethoxyiminoacetic acid (syn isomer, 1.35 g.), 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate (1.54 g.), N,N-dimethylformamide (393 mg.), phosphoryl chloride (825 mg.), tetrahydrofuran (21.2 ml.), acetone (3.9 ml.) and water (3.9 ml.) were treated in a similar manner to that of Example 15- (1) to give 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-ethoxycarbonylmethoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer 2.52 g.).

reactant | 2-(2-Formamidothiazol-4-yl)-2-ethoxycarbonylmethoxyiminoacetic acid | 1.35 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC(=O)OCC | C10H11N3O6S
reactant | 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate | 1.54 g | NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H13N3O5S
reactant | N,N-dimethylformamide | 393 mg | CN(C=O)C | C3H7NO
reactant | phosphoryl chloride | 825 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | 3.9 ml | O | H2O
solvent | acetone | 3.9 ml | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 21.2 ml | O1CCCC1 | C4H8O
product | 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-ethoxycarbonylmethoxyiminoacetamido]-3-cephem-4-carboxylate | 2.52 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCC(=O)OCC | C24H22N6O10S2
